US07495103B2
To a mixture of 2-tert-butyl-4-bromo-5-nitrophenol (C-14-a) (1.5 g, 5.5 mmol) and Cs2CO3 (2.2 g, 6.6 mmol) in DMF (6 mL) was added methyl iodide (5150 μL, 8.3 mmol). The mixture was stirred at room temperature for 4 h, diluted with H2O and extracted twice with EtOAc. The combined organic layers were washed with brine and dried over MgSO4. After removal of solvent, the residue was washed with hexane to yield 1-tert-butyl-2-methoxy-5-bromo-4-nitrobenzene (1.1 g, 69%). 1H NMR (400 MHz, CDCl3) δ 7.58 (s, 1H), 7.44 (s, 1H), 3.92 (s, 3H), 1.39 (s, 9H).

reactant | 2-tert-butyl-4-bromo-5-nitrophenol | 5.5 mmol, 1.5 g | C(C)(C)(C)C1=C(C=C(C(=C1)Br)[N+](=O)[O-])O | C10H12BrNO3
reactant | Cs2CO3 | 6.6 mmol, 2.2 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl iodide | 8.3 mmol, 5150 μL | CI | CH3I
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | H2O | O | H2O
product | 1-tert-butyl-2-methoxy-5-bromo-4-nitrobenzene | 1.1 g, 69% | C(C)(C)(C)C1=C(C=C(C(=C1)Br)[N+](=O)[O-])OC | C11H14BrNO3
